US06403610B1
0.35 cm3 of 1-bromo-3,5-difluorobenzene and then 0.112 g of tetrakis(triphenylphosphine)palladium and 0.037 g of cuprous iodide were added at a temperature in the region of 20° C., under an inert atmosphere, to a stirred mixture of 0.77 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-acetate in 7.7 cm3 of triethylamine. The suspension obtained was heated at a temperature in the region of 80° C. for 3 hours and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in 50 cm3 of ethyl acetate in 20 cm3 of water. After stirring the mixture for 15 minutes, the remaining insoluble material was filtered through clarcel and then the filtrate was separated by settling: the organic phase was separated off, then washed with 3 times 3 cm3 of water and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The oily residue obtained was purified by. chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 40-63μ; diameter 3 cm; 45 g), elution was carried out with a dichloromethane/methanol (97/3 by volume) mixture. The fractions comprising the expected product were collected. These fractions were concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.345 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-acetate was obtained in the form of an oil with a pale yellow color. Mass spectrum (El): m/z=506 M+.

reactant | 1-bromo-3,5-difluorobenzene | 0.35 cm3 | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-acetate | 0.77 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#C)CC(=O)OC | C24H30N2O3
solvent | triethylamine | 7.7 cm3 | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 20 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.112 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-acetate | 0.345 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#CC1=CC(=CC(=C1)F)F)CC(=O)OC | C30H32F2N2O3
